US09233946B2
5-Methoxy-3-methylbenzothiophene
A mixture of 4-methoxythiophenol (2.8 g, 20 mmol), K2CO3 (5.5 g, 40 mmol) and chloroacetone (6.6 mL, 82 mmol) in acetone (50 mL) was heated at reflux over night. The reaction mixture was filtered and the solvent was evaporated giving 5.0 g crude product. The intermediate thioether was dissolved in chlorobenzene (50 mL) and polyphosphoric acid (PPA, 0.5 g) was added (Plé et al., (1988) J. Heterocyclic Chem. 25, 1271-1272). The reaction mixture was refluxed over night. The solvent was decanted and the PPA residue was treated with CH2Cl2. The combined organic extracts were washed with water and dried before the solvents were evaporated. The crude product was purified on silica using heptane as eluent to give the title compound (0.96 g, 27% over two steps). 1H NMR (400 MHz, CDCl3) δ ppm 2.44 (d, J=1.20 Hz, 3 H) 3.93 (s, 3 H) 7.03 (ddd, J=8.78, 2.51, 0.50 Hz, 1 H) 7.11 (dq, J=1.20, 0.50 Hz, 1 H) 7.17 (d, J=2.51 Hz, 1 H) 7.73 (dd, J=8.78, 0.50 Hz, 1 H).

reactant | 4-methoxythiophenol | 20 mmol, 2.8 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | K2CO3 | 40 mmol, 5.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetone | 82 mmol, 6.6 mL | ClCC(C)=O | C3H5ClO
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | chlorobenzene | 50 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 5-Methoxy-3-methylbenzothiophene | 0.96 g, 27% | COC=1C=CC2=C(C(=CS2)C)C1 | C10H10OS
